US04408052
2-(N-Octadecylcarbamoyloxy)ethanol
In 50 ml of pyridine are dissolved 11.8 g (40 mM) of stearyl isocyanate and 12.4 g (200 mM) of ethylene glycol, and the solution is allowed to stand at room temperature overnight. The reaction mixture is concentrated to dryness under reduced pressure, and the residue is recrystallized from 100 ml of methanol to give 11.38 g (yield 79.5%) of the contemplated product. mp. 81°-82° C.

reactant | stearyl isocyanate | 40 mM, 11.8 g | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | ethylene glycol | 200 mM, 12.4 g | C(CO)O | C2H6O2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(N-Octadecylcarbamoyloxy)ethanol | 11.38 g, yield 79.5% | C(CCCCCCCCCCCCCCCCC)NC(=O)OCCO | C21H43NO3
